US08835426B2
(±)-1-(1-adamantylmethyl)-4-(hydroxymethyl)-4-isobutylimidazolidin-2-one
The title compound was prepared following procedures analogous to those described in Example 27 using (±)-2-(tert-butoxycarbonylamino)-2-(hydroxymethyl)-4-methylpentanoic acid and 1-(aminomethyl)adamantane. MS m/z=321.

reactant | (±)-2-(tert-butoxycarbonylamino)-2-(hydroxymethyl)-4-methylpentanoic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)(CC(C)C)CO | C12H23NO5
reactant | 1-(aminomethyl)adamantane | NCC12CC3CC(CC(C1)C3)C2 | C11H19N
product | (±)-1-(1-adamantylmethyl)-4-(hydroxymethyl)-4-isobutylimidazolidin-2-one | C12(CC3CC(CC(C1)C3)C2)CN2C(NC(C2)(CC(C)C)CO)=O | C19H32N2O2
